US08017610B2
(60a) 5-(Azetidin-1-ylcarbonyl)-2,3-dichloropyridine
Commercially available 5,6-dichloronicotinic acid (200 mg, 1.04 mmol) was dissolved in dichloromethane (5.0 mL), and azetidine hydrochloride (125 mg, 1.34 mmol), HATU (440 mg, 1.16 mmol) and N,N-diisopropylethylamine (0.45 mL, 2.58 mmol) were added, followed by stirring at room temperature for 5 hours under nitrogen atmosphere. 0.5N hydrochloric acid (30 mL) was added, and extraction was carried out with dichloromethane (30 mL). The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=60%-80%) to afford the desired compound (162 mg, yield 67%) as a colorless liquid.

reactant | 5,6-dichloronicotinic acid | 1.04 mmol, 200 mg | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | azetidine hydrochloride | 1.34 mmol, 125 mg | Cl.N1CCC1
reactant | HATU | 1.16 mmol, 440 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2.58 mmol, 0.45 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 0.5N, 30 mL | Cl | ClH
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | 5-(Azetidin-1-ylcarbonyl)-2,3-dichloropyridine | 162 mg, yield 67% | N1(CCC1)C(=O)C=1C=C(C(=NC1)Cl)Cl | C9H8Cl2N2O
